US06214829B1
3.94 g (21.9 mmol) of 7-nitro-2-benzoxazolidinone (for preparation of the latter compound, see EP 0189612 and references cited therein), were dissolved in 40 ml of DMSO after which 1.72 g of 85% powdered KOH (26.2 mmol) were added. While stirring and cooling (water) 3.72 g (26.2 mmol) of Mel dissolved in 6 ml of DMSO, were added dropwise over a period of 10 minutes. Stirring was continued at room temperature for 16 hrs, during the latter period an extra amount of Mel (0.5 g) was added. After the reaction was completed, the reaction mixture was diluted with water after which extraction took place with CH2Cl2. The combined organic fractions were washed with water and brine respectively, after which the organic fraction was dried on MgSO4. After removal of the drying agent and evaporation of the solvent in vacuo, 4.1 g of a solid residue was left. Flash column chromatography (SiO2, eluent: CH2Cl2) of the latter yielded 3.6 g (85%) of pure 3-methyl-7-nitro-2-benzoxazolidinone.

reactant | 7-nitro-2-benzoxazolidinone | 21.9 mmol, 3.94 g | [N+](=O)([O-])C1=CC=CC=2NC(OC21)=O | C7H4N2O4
reactant | KOH | 26.2 mmol, 1.72 g | [OH-].[K+]
reactant | DMSO | 40 ml | CS(=O)C | C2H6OS
reactant | DMSO | 6 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-methyl-7-nitro-2-benzoxazolidinone | 3.6 g, 85% | CN1C(OC2=C1C=CC=C2[N+](=O)[O-])=O | C8H6N2O4
